US09108956B2
Step 2. Synthesis of 1-(4-bromophenyl)-5-hydroxypentane-1,4-dione
To a round bottom flask containing 5-(4-bromophenyl)-2,5-dioxopentyl acetate (1.3 g, 4.15 mmol) and sodium bicarbonate (0.42 g, 4.98 mmol) was added MeOH (26 ml). The mixture was stir at room temperature for 19 hours. Afterward, the reaction mixture was concentrated and the resulting residue was taken up in water to form a slurry. The slurry was filtered, washed with water to afford the title compound as off-white solid after drying (985 mg, 88% yield). MS (ESI) m/z 273.0 (M+1). Retention time 1.10 min. (Condition R).

reactant | 5-(4-bromophenyl)-2,5-dioxopentyl acetate | 4.15 mmol, 1.3 g | C(C)(=O)OCC(CCC(=O)C1=CC=C(C=C1)Br)=O | C13H13BrO4
reactant | sodium bicarbonate | 4.98 mmol, 0.42 g | C([O-])(O)=O.[Na+]
solvent | MeOH | 26 ml | CO | CH4O
product | 1-(4-bromophenyl)-5-hydroxypentane-1,4-dione | 88% yield | BrC1=CC=C(C=C1)C(CCC(CO)=O)=O | C11H11BrO3
